US07553836B2
Step B. Preparation of 4-(phenethylthio)-1H-pyrrole-2-carboxylic acid
A solution of methyl 4-(phenethylthio)-1H-pyrrole-2-carboxylate (233 mg, 0.890 mmol) and KOH (250 mg, 4.46 mmol) in MeOH (1.2 mL) and H2O (0.6 mL) was stirred at 60° C. for 1.5 h, cooled to 0° C., acidified with concentrated HCl and diluted with H2O. The solid precipitate was filtered, washed with H2O and air dried under vacuum to afford the title compound (81.0 mg) as a colorless solid that was used in the next step without purification: 1H NMR (400 MHz, CDCl3) δ 2.84-2.90 (m, 2H), 2.91-2.98 (m, 2H), 7.03-7.07 (m, 1H), 7.07-7.10 (m, 1H), 7.13-7.32 (m, 5H), 9.22 (br. s., 1 H); HPLC a) column: Phenomenex Luna 5μ 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% H3PO4 to 90% MeOH/10% H2O/0.1% H3PO4; 1 min hold, 4 mL/min UV detection at 220 nm, 3.293 min retention time, (95%); HPLC b) column: Phenomenex Luna C18 4.6×50 mm, 4 min gradient, 10% MeOH/90% H2O/0.1% TFA to 90% MeOH/10% H2O/0.1% TFA, 1 min hold; 4 mL/min, UV detection at 220 nm, 3.258 min retention time; MS (ES): m/z 248.1 [M+H]+.

reactant | methyl 4-(phenethylthio)-1H-pyrrole-2-carboxylate | 0.890 mmol, 233 mg | C(CC1=CC=CC=C1)SC=1C=C(NC1)C(=O)OC | C14H15NO2S
reactant | KOH | 4.46 mmol, 250 mg | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | MeOH | 1.2 mL | CO | CH4O
solvent | H2O | 0.6 mL | O | H2O
product | 4-(phenethylthio)-1H-pyrrole-2-carboxylic acid | 81.0 mg | C(CC1=CC=CC=C1)SC=1C=C(NC1)C(=O)O | C13H13NO2S
